US07091353B2
N-[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]-2-chloroacetamide I-44
To a stirred suspension of 3-(4-amino-1-oxoisoindolin-2-yl)piperidine-2,6-dione (3.89 g, 15.0 mmol) in THF (50 ml) was added chloroacetyl chloride (1.86 g, 16.5 mmol). The mixture was heated to reflux for 45 minutes. To the reaction mixture was added additional chloroacetyl chloride (0.15 g, 0.13 mmol). The reaction mixture was heated at reflux for an additional 30 minutes. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 4.64 g (92%) of product as an off-white solid: 1H NMR (DMSO-d6) δ 11.04 (s, 1H), 10.22 (s, 1H), 7.82 (dd, J=1.6 and 7.2 Hz, 1H), 7.59–7.50 (m, 2H), 5.16 (dd, J=5.1 and 13.2 Hz, 1H), 4.46–4.30 (m, 4H), 3.00–2.85 (m, 1H), 2.65–2.58 (m, 1H), 2.44–2.28 (m, 1H), 2.06–2.01 (m, 1H).

reactant | 3-(4-amino-1-oxoisoindolin-2-yl)piperidine-2,6-dione | 15.0 mmol, 3.89 g | NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H13N3O3
reactant | chloroacetyl chloride | 16.5 mmol, 1.86 g | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | chloroacetyl chloride | 0.13 mmol, 0.15 g | ClCC(=O)Cl | C2H2Cl2O
product | N-[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]-2-chloroacetamide | 4.64 g, 92% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1)NC(CCl)=O)=O)=O | C15H14ClN3O4
